US04686221
A solution of 3-cyclopropylamino-2-(2,3,4,5-tetrafluorobenzoyl)acrylonitrile (12.0 g) in dioxane (60 ml) is added dropwise to a suspension of sodium hydride (1.9 g, in oil, 55-65 w/w%) in dioxane (40 ml) while maitainig the internal temperature between 16° C. and 18° C. on an ice bath. The mixture is stirred for 6 hours with heating while keeping the internal temperature around 45° C. The reaction mixture is poured into hexane (300 ml), and the resulting precipitate is filtered and washed with hexane and water to yield 1-cyclopropyl-3-cyano-1,4-dihydro-4-oxo-6,7,8-trifluoroquinoline (10.2 g) as a colorless powder, m.p. 217°-218° C.

reactant | 3-cyclopropylamino-2-(2,3,4,5-tetrafluorobenzoyl)acrylonitrile | 12.0 g | C1(CC1)NC=C(C#N)C(C1=C(C(=C(C(=C1)F)F)F)F)=O | C13H8F4N2O
reactant | sodium hydride | 1.9 g | [H-].[Na+]
reactant | hexane | 300 ml | CCCCCC | C6H14
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 1-cyclopropyl-3-cyano-1,4-dihydro-4-oxo-6,7,8-trifluoroquinoline | 10.2 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C#N | C13H7F3N2O
